US07612060B2
Step (i): Synthesis of (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-2-(2,2,2-trifluoroacetyl)-1,2,3,4,6,7,8,9-octahydrobenzo[g]isoquinolin-6-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one
To a solution of (R)-4-(3,4-dichlorophenylsulfonyl)-3-(prop-2-ynyl)-3,4-dihydropyrazin-2(1H)-one (345 mg, 1 mmol) and (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone (324 mg, 1 mmol) in dioxane (3 mL) and t-BuOH (4 mL) was added a solution of copper(2+) sulfate, pentahydrate (249 mg, 1 mmol) in water (0.5 mL), followed by a solution of (+)-sodium l-ascorbate (198 mg, 1 mmol) in water (0.5 mL). The resulting solution was stirred at room temperature for 16.

reactant | (R)-4-(3,4-dichlorophenylsulfonyl)-3-(prop-2-ynyl)-3,4-dihydropyrazin-2(1H)-one | 1 mmol, 345 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC#C | C13H10Cl2N2O3S
reactant | (R)-1-(6-azido-3,4,6,7,8,9-hexahydrobenzo[g]isoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | 1 mmol, 324 mg | N(=[N+]=[N-])[C@@H]1CCCC2=C1C=C1CCN(CC1=C2)C(C(F)(F)F)=O | C15H15F3N4O
reactant | (+)-sodium l-ascorbate | 1 mmol, 198 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | t-BuOH | 4 mL | CC(C)(C)O | C4H10O
solvent | water | 0.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
catalyst | copper(2+) sulfate, pentahydrate | 1 mmol, 249 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | (R)-4-(3,4-dichlorophenylsulfonyl)-3-((1-((R)-2-(2,2,2-trifluoroacetyl)-1,2,3,4,6,7,8,9-octahydrobenzo[g]isoquinolin-6-yl)-1H-1,2,3-triazol-4-yl)methyl)-3,4-dihydropyrazin-2(1H)-one | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@@H]1CCCC2=C1C=C1CCN(CC1=C2)C(C(F)(F)F)=O | C28H25Cl2F3N6O4S
